US09079866B2
5-[3-Fluoro-4′-(trifluoromethyl)-2′-{[2-(trimethylsilyl)ethoxy]methoxy}biphenyl-4-yl]-pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using (2-((2-bromo-5-(trifluoromethyl)phenoxy)methoxy)ethyl)trimethylsilane and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine. MS (ESI): mass calcd. for C23H25F4N3O2Si, 479.17; m/z found, 480.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.55-8.48 (m, 2H), 7.60-7.51 (m, 3H), 7.48-7.36 (m, 3H), 5.33-5.29 (d, J=1.0, 2H), 3.73-3.66 (m, 2H), 0.93-0.84 (t, J=8.0, 2H), −0.03-−0.07 (m, 9H).

reactant | (2-((2-bromo-5-(trifluoromethyl)phenoxy)methoxy)ethyl)trimethylsilane | BrC1=C(OCOCC[Si](C)(C)C)C=C(C=C1)C(F)(F)F | C13H18BrF3O2Si
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-[3-Fluoro-4′-(trifluoromethyl)-2′-{[2-(trimethylsilyl)ethoxy]methoxy}biphenyl-4-yl]-pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=C(C=C1)C(F)(F)F)OCOCC[Si](C)(C)C | C23H25F4N3O2Si
